US05536718
6-[(5-Fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride
A mixture of 6.2 g of 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carboxylic acid and 23 ml of thionyl chloride is refluxed for 1 hour. An additional 12 ml of thionyl chloride is added and the mixture refluxed for 0.5 hour. The mixture is concentrated to dryness under vacuum and 30 ml of toluene added to the residue. The toluene is removed under vacuum and the process (add toluene and remove) is repeated to give 7.7 g of crude product as a solid.

reactant | 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carboxylic acid | 6.2 g | FC=1C=CC(=C(C(=O)NC2=CC=C(C=N2)C(=O)O)C1)C | C14H11FN2O3
reactant | thionyl chloride | 23 ml | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 12 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-[(5-Fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride | 7.7 g | FC=1C=CC(=C(C(=O)NC2=CC=C(C=N2)C(=O)Cl)C1)C | C14H10ClFN2O2
